US08530468B2
8-Chloroisoquinolin-3-amine
N-(1-Bromo-8-chloroisoquinolin-3-yl)acetamide (1.00 g, 3.33 mmol), potassium carbonate (0.508 mg, 3.67 mmol), triphenylphosphine (35 mg, 0.134 mmol) and palladium acetate (7.49 mg, 0.033 mmol) were stirred in 1-butanol (10 mL) with nitrogen bubbling through it for 10 minutes. Butanol (5 mL) was added to the reaction mixture, which was then heated overnight at 100° C. in a sealed vial. The reaction mixture was cooled, diluted with water and extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried (Na2SO4) and concentrated to give an orange solid. Flash chromatography on silica (20 g), eluting with 15-60% ethyl acetate-hexane, gave the title compound as a yellow solid (333 mg, 1.51 mmol, 45%). LC-MS (1) Rt=1.68 min; m/z (ES+) 221/223.

reactant | N-(1-Bromo-8-chloroisoquinolin-3-yl)acetamide | 3.33 mmol, 1.00 g | BrC1=NC(=CC2=CC=CC(=C12)Cl)NC(C)=O | C11H8BrClN2O
reactant | potassium carbonate | 3.67 mmol, 0.508 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1-butanol | 10 mL | C(CCC)O | C4H10O
solvent | water | O | H2O
catalyst | palladium acetate | 0.033 mmol, 7.49 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.134 mmol, 35 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | Butanol | 5 mL | C(CCC)O | C4H10O
product | 8-Chloroisoquinolin-3-amine | 1.51 mmol, 333 mg, 45% | ClC=1C=CC=C2C=C(N=CC12)N | C9H7ClN2
